US07947738B2
(9-a) Methyl 4-propyl-3-hydroxyhept-6-enoate
Sodium hydride (>63% oil, 2.09 g, 55 mmol) was added to a tetrahydrofuran solution (50 mL) of methyl 3-oxoheptanoate (7.91 g, 50 mmol) under ice cooling, and the mixture was stirred in this state for 25 minutes. To the reaction solution, n-butyllithium (1.58 M hexane solution, 34.8 mL, 55 mmol) was added dropwise, and the mixture was further stirred for 1 hour under ice cooling. Then, allyl bromide (4.7 mL, 55 mmol) was added thereto, and the mixture was stirred in this state for 1 hour and then further stirred overnight at room temperature. To the reaction solution, 1 N hydrochloric acid and a saturated aqueous solution of ammonium chloride were added, followed by extraction with ethyl acetate. The organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was dissolved in methanol (35 mL). To the solution, sodium borohydride (0.61 g, 16.1 mmol) was added under ice cooling, and the mixture was stirred in this state for 1 hour. 1 N hydrochloric acid (50 mL) was added thereto, and the mixture was stirred for 30 minutes. Then, saturated saline was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with saturated saline and then dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to obtain the compound of interest as a pale yellow oil substance (3.24 g, 33%, mixture of diastereomers).

reactant | Sodium hydride | 55 mmol, 2.09 g | [H-].[Na+]
reactant | methyl 3-oxoheptanoate | 50 mmol, 7.91 g | O=C(CC(=O)OC)CCCC | C8H14O3
reactant | n-butyllithium | 55 mmol, 1.58 M, 34.8 mL | C(CCC)[Li]
reactant | allyl bromide | 55 mmol, 4.7 mL | C(C=C)Br | C3H5Br
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium borohydride | 16.1 mmol, 0.61 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1 N, 50 mL | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | Methyl 4-propyl-3-hydroxyhept-6-enoate | C(CC)C(C(CC(=O)OC)O)CC=C | C11H20O3
